US05663182
3-(3-Pentylthio-1,2,5-thiadiazol-4oyl)-1-azabicyclo[2.2.2]octane fumarate
A solution of 3-(3-chloro-1,2,5-thiadiazol-4-yl)-1-azabicyclo[2.2.2]octane oxalate (500 mg, 1.56 mmol), sodiumhydrogen sulfide, monohydrate (463 mg, 6.25 mmol) and potassium carbonate (1.38 g, 10 mmol) in DMF (20 ml) was stirred at room temperature for 1 h. 1-Pentylbromide (755 mg, 5 mmol) was added, and the reaction mixture was stirred at room temperature for 18 h. 1N HCl was added, and the mixture extracted with ether once. 50% NaOH was added to the aqueous phase and extracted with ether. The ether phase was dried and evaporated. Crystallization of the residue with fumaric acid from isopropanol/ether gave the title compound in 380 mg yield. (Compound 12). M.p. 138°-139° C.

reactant | 3-(3-chloro-1,2,5-thiadiazol-4-yl)-1-azabicyclo[2.2.2]octane oxalate | 1.56 mmol, 500 mg | C(C(=O)O)(=O)O.ClC1=NSN=C1C1CN2CCC1CC2
reactant | sodiumhydrogen sulfide, monohydrate | 6.25 mmol, 463 mg | O.S.[Na]
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-Pentylbromide | 5 mmol, 755 mg | C(CCCC)Br | C5H11Br
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3-(3-Pentylthio-1,2,5-thiadiazol-4oyl)-1-azabicyclo[2.2.2]octane fumarate | C(\C=C\C(=O)O)(=O)O.C(CCCC)SC1=NSN=C1C(=O)C1CN2CCC1CC2 | InChI=1S/C15H23N3OS2.C4H4O4/c1-2-3-4-9-20-15-13(16-21-17-15)14(19)12-10-18-7-5-11(12)6-8-18;5-3(6)1-2-4(7)8/h11-12H,2-10H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
